* Ideal crossbar read-energy validation
* rows=128 cols=127 pulse_ns=10
* Each row is collapsed to an equivalent conductance because columns are ideal virtual ground.
Vrow0 row0 0 PULSE(0 -0.00834677237642 0 0.001n 0.001n 10n 30n)
Vrow1 row1 0 PULSE(0 0.0292747055033 0 0.001n 0.001n 10n 30n)
Vrow2 row2 0 PULSE(0 -0.0184694295243 0 0.001n 0.001n 10n 30n)
Vrow3 row3 0 PULSE(0 -0.0635525419765 0 0.001n 0.001n 10n 30n)
Vrow4 row4 0 PULSE(0 -0.020711257781 0 0.001n 0.001n 10n 30n)
Vrow5 row5 0 PULSE(0 -0.0403650326616 0 0.001n 0.001n 10n 30n)
Vrow6 row6 0 PULSE(0 0.0114411079054 0 0.001n 0.001n 10n 30n)
Vrow7 row7 0 PULSE(0 0.00507923021878 0 0.001n 0.001n 10n 30n)
Vrow8 row8 0 PULSE(0 0.0189046542325 0 0.001n 0.001n 10n 30n)
Vrow9 row9 0 PULSE(0 0.00129220048833 0 0.001n 0.001n 10n 30n)
Vrow10 row10 0 PULSE(0 0.0469200555563 0 0.001n 0.001n 10n 30n)
Vrow11 row11 0 PULSE(0 -0.0213181280511 0 0.001n 0.001n 10n 30n)
Vrow12 row12 0 PULSE(0 0.0127993115621 0 0.001n 0.001n 10n 30n)
Vrow13 row13 0 PULSE(0 -0.00238946620239 0 0.001n 0.001n 10n 30n)
Vrow14 row14 0 PULSE(0 -0.0195727006516 0 0.001n 0.001n 10n 30n)
Vrow15 row15 0 PULSE(0 -0.00549720495394 0 0.001n 0.001n 10n 30n)
Vrow16 row16 0 PULSE(0 0.0585059699026 0 0.001n 0.001n 10n 30n)
Vrow17 row17 0 PULSE(0 -0.00779850654499 0 0.001n 0.001n 10n 30n)
Vrow18 row18 0 PULSE(0 -0.0384830266377 0 0.001n 0.001n 10n 30n)
Vrow19 row19 0 PULSE(0 0.0448810997215 0 0.001n 0.001n 10n 30n)
Vrow20 row20 0 PULSE(0 -0.00256529355494 0 0.001n 0.001n 10n 30n)
Vrow21 row21 0 PULSE(0 -0.0577785495568 0 0.001n 0.001n 10n 30n)
Vrow22 row22 0 PULSE(0 -0.0163019028963 0 0.001n 0.001n 10n 30n)
Vrow23 row23 0 PULSE(0 0.000836535618263 0 0.001n 0.001n 10n 30n)
Vrow24 row24 0 PULSE(0 0.0086216453262 0 0.001n 0.001n 10n 30n)
Vrow25 row25 0 PULSE(0 0.0261600328443 0 0.001n 0.001n 10n 30n)
Vrow26 row26 0 PULSE(0 -0.0616933776009 0 0.001n 0.001n 10n 30n)
Vrow27 row27 0 PULSE(0 0.0120588182017 0 0.001n 0.001n 10n 30n)
Vrow28 row28 0 PULSE(0 -0.028417852832 0 0.001n 0.001n 10n 30n)
Vrow29 row29 0 PULSE(0 -0.0280109261427 0 0.001n 0.001n 10n 30n)
Vrow30 row30 0 PULSE(0 0.0146856169631 0 0.001n 0.001n 10n 30n)
Vrow31 row31 0 PULSE(0 0.00795686462958 0 0.001n 0.001n 10n 30n)
Vrow32 row32 0 PULSE(0 -0.0686495946822 0 0.001n 0.001n 10n 30n)
Vrow33 row33 0 PULSE(0 0.0137343961425 0 0.001n 0.001n 10n 30n)
Vrow34 row34 0 PULSE(0 -0.0160042287976 0 0.001n 0.001n 10n 30n)
Vrow35 row35 0 PULSE(0 -0.0036436416881 0 0.001n 0.001n 10n 30n)
Vrow36 row36 0 PULSE(0 -0.017345612327 0 0.001n 0.001n 10n 30n)
Vrow37 row37 0 PULSE(0 0.0217579973014 0 0.001n 0.001n 10n 30n)
Vrow38 row38 0 PULSE(0 0.0591119289367 0 0.001n 0.001n 10n 30n)
Vrow39 row39 0 PULSE(0 -0.00235489538238 0 0.001n 0.001n 10n 30n)
Vrow40 row40 0 PULSE(0 0.0313618261419 0 0.001n 0.001n 10n 30n)
Vrow41 row41 0 PULSE(0 -0.00961276815742 0 0.001n 0.001n 10n 30n)
Vrow42 row42 0 PULSE(0 0.0334457031487 0 0.001n 0.001n 10n 30n)
Vrow43 row43 0 PULSE(0 -0.0424184799097 0 0.001n 0.001n 10n 30n)
Vrow44 row44 0 PULSE(0 -0.020893830811 0 0.001n 0.001n 10n 30n)
Vrow45 row45 0 PULSE(0 0.0357827785753 0 0.001n 0.001n 10n 30n)
Vrow46 row46 0 PULSE(0 0.0108077179073 0 0.001n 0.001n 10n 30n)
Vrow47 row47 0 PULSE(0 0.0601552186466 0 0.001n 0.001n 10n 30n)
Vrow48 row48 0 PULSE(0 -0.0106057401533 0 0.001n 0.001n 10n 30n)
Vrow49 row49 0 PULSE(0 -0.0378731759817 0 0.001n 0.001n 10n 30n)
Vrow50 row50 0 PULSE(0 -0.0556085119675 0 0.001n 0.001n 10n 30n)
Vrow51 row51 0 PULSE(0 -0.0138216511287 0 0.001n 0.001n 10n 30n)
Vrow52 row52 0 PULSE(0 -0.00384278701687 0 0.001n 0.001n 10n 30n)
Vrow53 row53 0 PULSE(0 -0.0305754129316 0 0.001n 0.001n 10n 30n)
Vrow54 row54 0 PULSE(0 -0.00400687990521 0 0.001n 0.001n 10n 30n)
Vrow55 row55 0 PULSE(0 0.00162039995656 0 0.001n 0.001n 10n 30n)
Vrow56 row56 0 PULSE(0 0.041974956511 0 0.001n 0.001n 10n 30n)
Vrow57 row57 0 PULSE(0 -0.00154057511029 0 0.001n 0.001n 10n 30n)
Vrow58 row58 0 PULSE(0 0.0394797604734 0 0.001n 0.001n 10n 30n)
Vrow59 row59 0 PULSE(0 0.0107596387043 0 0.001n 0.001n 10n 30n)
Vrow60 row60 0 PULSE(0 -0.00344402417342 0 0.001n 0.001n 10n 30n)
Vrow61 row61 0 PULSE(0 -0.0343740445829 0 0.001n 0.001n 10n 30n)
Vrow62 row62 0 PULSE(0 -0.0385747098625 0 0.001n 0.001n 10n 30n)
Vrow63 row63 0 PULSE(0 0.0133370558397 0 0.001n 0.001n 10n 30n)
Vrow64 row64 0 PULSE(0 0.0358019090081 0 0.001n 0.001n 10n 30n)
Vrow65 row65 0 PULSE(0 -0.00418420458415 0 0.001n 0.001n 10n 30n)
Vrow66 row66 0 PULSE(0 0.0179452884351 0 0.001n 0.001n 10n 30n)
Vrow67 row67 0 PULSE(0 0.0158726647323 0 0.001n 0.001n 10n 30n)
Vrow68 row68 0 PULSE(0 0.0311876640961 0 0.001n 0.001n 10n 30n)
Vrow69 row69 0 PULSE(0 0.0569378819091 0 0.001n 0.001n 10n 30n)
Vrow70 row70 0 PULSE(0 -0.0521347773595 0 0.001n 0.001n 10n 30n)
Vrow71 row71 0 PULSE(0 0.0568976844371 0 0.001n 0.001n 10n 30n)
Vrow72 row72 0 PULSE(0 -0.00474075852092 0 0.001n 0.001n 10n 30n)
Vrow73 row73 0 PULSE(0 -0.0227471025273 0 0.001n 0.001n 10n 30n)
Vrow74 row74 0 PULSE(0 -0.00209389461959 0 0.001n 0.001n 10n 30n)
Vrow75 row75 0 PULSE(0 0.0399724390698 0 0.001n 0.001n 10n 30n)
Vrow76 row76 0 PULSE(0 0.0248952244313 0 0.001n 0.001n 10n 30n)
Vrow77 row77 0 PULSE(0 0.00112797241032 0 0.001n 0.001n 10n 30n)
Vrow78 row78 0 PULSE(0 0.0252635368061 0 0.001n 0.001n 10n 30n)
Vrow79 row79 0 PULSE(0 -0.0167210309433 0 0.001n 0.001n 10n 30n)
Vrow80 row80 0 PULSE(0 -0.0535280037725 0 0.001n 0.001n 10n 30n)
Vrow81 row81 0 PULSE(0 0.0374095722559 0 0.001n 0.001n 10n 30n)
Vrow82 row82 0 PULSE(0 0.0380398971875 0 0.001n 0.001n 10n 30n)
Vrow83 row83 0 PULSE(0 0.00466362975956 0 0.001n 0.001n 10n 30n)
Vrow84 row84 0 PULSE(0 0.0116314881106 0 0.001n 0.001n 10n 30n)
Vrow85 row85 0 PULSE(0 0.1 0 0.001n 0.001n 10n 30n)
Vrow86 row86 0 PULSE(0 0.00245282057355 0 0.001n 0.001n 10n 30n)
Vrow87 row87 0 PULSE(0 -0.026263711248 0 0.001n 0.001n 10n 30n)
Vrow88 row88 0 PULSE(0 0.0710431299214 0 0.001n 0.001n 10n 30n)
Vrow89 row89 0 PULSE(0 0.0273044899965 0 0.001n 0.001n 10n 30n)
Vrow90 row90 0 PULSE(0 0.0174699601398 0 0.001n 0.001n 10n 30n)
Vrow91 row91 0 PULSE(0 0.0338409365635 0 0.001n 0.001n 10n 30n)
Vrow92 row92 0 PULSE(0 -0.0417116663829 0 0.001n 0.001n 10n 30n)
Vrow93 row93 0 PULSE(0 -0.0744762326096 0 0.001n 0.001n 10n 30n)
Vrow94 row94 0 PULSE(0 -0.0346713836413 0 0.001n 0.001n 10n 30n)
Vrow95 row95 0 PULSE(0 -0.0547520863806 0 0.001n 0.001n 10n 30n)
Vrow96 row96 0 PULSE(0 -0.00972039156859 0 0.001n 0.001n 10n 30n)
Vrow97 row97 0 PULSE(0 0.0183944817464 0 0.001n 0.001n 10n 30n)
Vrow98 row98 0 PULSE(0 0.0116949635196 0 0.001n 0.001n 10n 30n)
Vrow99 row99 0 PULSE(0 -0.0106536895742 0 0.001n 0.001n 10n 30n)
Vrow100 row100 0 PULSE(0 0.0358742261674 0 0.001n 0.001n 10n 30n)
Vrow101 row101 0 PULSE(0 0.0373777360642 0 0.001n 0.001n 10n 30n)
Vrow102 row102 0 PULSE(0 0.00935866862644 0 0.001n 0.001n 10n 30n)
Vrow103 row103 0 PULSE(0 -0.00995352530872 0 0.001n 0.001n 10n 30n)
Vrow104 row104 0 PULSE(0 0.0115773275581 0 0.001n 0.001n 10n 30n)
Vrow105 row105 0 PULSE(0 0.00550247079332 0 0.001n 0.001n 10n 30n)
Vrow106 row106 0 PULSE(0 -0.00371926253802 0 0.001n 0.001n 10n 30n)
Vrow107 row107 0 PULSE(0 -0.0228341043924 0 0.001n 0.001n 10n 30n)
Vrow108 row108 0 PULSE(0 0.00956824553609 0 0.001n 0.001n 10n 30n)
Vrow109 row109 0 PULSE(0 0.0472673487547 0 0.001n 0.001n 10n 30n)
Vrow110 row110 0 PULSE(0 -0.00594263412436 0 0.001n 0.001n 10n 30n)
Vrow111 row111 0 PULSE(0 0.0538161273819 0 0.001n 0.001n 10n 30n)
Vrow112 row112 0 PULSE(0 0.0102759399243 0 0.001n 0.001n 10n 30n)
Vrow113 row113 0 PULSE(0 -0.0528518887731 0 0.001n 0.001n 10n 30n)
Vrow114 row114 0 PULSE(0 0.0433163584492 0 0.001n 0.001n 10n 30n)
Vrow115 row115 0 PULSE(0 -0.0711691050728 0 0.001n 0.001n 10n 30n)
Vrow116 row116 0 PULSE(0 -0.00998995541829 0 0.001n 0.001n 10n 30n)
Vrow117 row117 0 PULSE(0 0.00483818023121 0 0.001n 0.001n 10n 30n)
Vrow118 row118 0 PULSE(0 0.0150184196687 0 0.001n 0.001n 10n 30n)
Vrow119 row119 0 PULSE(0 -0.0135026430629 0 0.001n 0.001n 10n 30n)
Vrow120 row120 0 PULSE(0 0.0130262074779 0 0.001n 0.001n 10n 30n)
Vrow121 row121 0 PULSE(0 -0.0289202660058 0 0.001n 0.001n 10n 30n)
Vrow122 row122 0 PULSE(0 -0.0112624706785 0 0.001n 0.001n 10n 30n)
Vrow123 row123 0 PULSE(0 -0.0113570532904 0 0.001n 0.001n 10n 30n)
Vrow124 row124 0 PULSE(0 -0.0141431710761 0 0.001n 0.001n 10n 30n)
Vrow125 row125 0 PULSE(0 0.0356563984302 0 0.001n 0.001n 10n 30n)
Vrow126 row126 0 PULSE(0 0.0263374164314 0 0.001n 0.001n 10n 30n)
Vrow127 row127 0 PULSE(0 0.0495214667313 0 0.001n 0.001n 10n 30n)
Reqrow0 row0 0 171.861320016
Reqrow1 row1 0 377.684090311
Reqrow2 row2 0 160.482576229
Reqrow3 row3 0 48.8115620736
Reqrow4 row4 0 381.555825485
Reqrow5 row5 0 222.8161408
Reqrow6 row6 0 356.416090901
Reqrow7 row7 0 222.881825637
Reqrow8 row8 0 151.15448707
Reqrow9 row9 0 57.029089257
Reqrow10 row10 0 77.7143923712
Reqrow11 row11 0 94.8379757972
Reqrow12 row12 0 325.885324942
Reqrow13 row13 0 42.5549497657
Reqrow14 row14 0 201.118496586
Reqrow15 row15 0 325.149425823
Reqrow16 row16 0 52.9149966244
Reqrow17 row17 0 41.8440430163
Reqrow18 row18 0 235.248581402
Reqrow19 row19 0 372.49164673
Reqrow20 row20 0 253.362734768
Reqrow21 row21 0 382.713173629
Reqrow22 row22 0 46.6690143528
Reqrow23 row23 0 59.0401824215
Reqrow24 row24 0 168.035423423
Reqrow25 row25 0 382.727404395
Reqrow26 row26 0 252.62105687
Reqrow27 row27 0 59.1216634695
Reqrow28 row28 0 362.04257253
Reqrow29 row29 0 284.056617028
Reqrow30 row30 0 170.55136133
Reqrow31 row31 0 355.196328376
Reqrow32 row32 0 231.715880802
Reqrow33 row33 0 116.516761656
Reqrow34 row34 0 39.1596759054
Reqrow35 row35 0 121.013173056
Reqrow36 row36 0 50.4077859423
Reqrow37 row37 0 32.744268908
Reqrow38 row38 0 182.225024231
Reqrow39 row39 0 30.7834493964
Reqrow40 row40 0 54.4496867197
Reqrow41 row41 0 225.767034862
Reqrow42 row42 0 39.9715581377
Reqrow43 row43 0 338.830638099
Reqrow44 row44 0 151.586723826
Reqrow45 row45 0 113.712584949
Reqrow46 row46 0 240.137700262
Reqrow47 row47 0 286.433150205
Reqrow48 row48 0 366.826654725
Reqrow49 row49 0 94.5652964665
Reqrow50 row50 0 313.325068318
Reqrow51 row51 0 359.056928289
Reqrow52 row52 0 219.119117844
Reqrow53 row53 0 274.03907768
Reqrow54 row54 0 45.7755610977
Reqrow55 row55 0 250.793938213
Reqrow56 row56 0 53.8426052593
Reqrow57 row57 0 91.816798021
Reqrow58 row58 0 376.967176708
Reqrow59 row59 0 53.8743507968
Reqrow60 row60 0 191.986089932
Reqrow61 row61 0 272.130997284
Reqrow62 row62 0 74.4780479858
Reqrow63 row63 0 278.541009758
Reqrow64 row64 0 256.155315983
Reqrow65 row65 0 69.8118230426
Reqrow66 row66 0 71.8571627378
Reqrow67 row67 0 28.2272825472
Reqrow68 row68 0 42.2048639674
Reqrow69 row69 0 183.797286969
Reqrow70 row70 0 95.6258189048
Reqrow71 row71 0 127.257539507
Reqrow72 row72 0 286.930709604
Reqrow73 row73 0 144.445624164
Reqrow74 row74 0 66.4821288855
Reqrow75 row75 0 75.7528438665
Reqrow76 row76 0 54.5046630887
Reqrow77 row77 0 40.7379469994
Reqrow78 row78 0 132.512865539
Reqrow79 row79 0 38.6916058916
Reqrow80 row80 0 287.464630554
Reqrow81 row81 0 306.428582236
Reqrow82 row82 0 104.105848816
Reqrow83 row83 0 393.803939457
Reqrow84 row84 0 67.1835329498
Reqrow85 row85 0 32.5778910289
Reqrow86 row86 0 385.486050587
Reqrow87 row87 0 113.745072287
Reqrow88 row88 0 345.062517399
Reqrow89 row89 0 171.44457061
Reqrow90 row90 0 130.093194575
Reqrow91 row91 0 74.5639249554
Reqrow92 row92 0 293.964867017
Reqrow93 row93 0 96.2396247145
Reqrow94 row94 0 196.139455269
Reqrow95 row95 0 330.744894584
Reqrow96 row96 0 373.533613541
Reqrow97 row97 0 53.2394686192
Reqrow98 row98 0 361.972651271
Reqrow99 row99 0 276.339298271
Reqrow100 row100 0 53.876220099
Reqrow101 row101 0 294.809864692
Reqrow102 row102 0 92.618554274
Reqrow103 row103 0 130.441368099
Reqrow104 row104 0 238.896038461
Reqrow105 row105 0 371.388848858
Reqrow106 row106 0 98.7474721684
Reqrow107 row107 0 117.556359615
Reqrow108 row108 0 188.301077268
Reqrow109 row109 0 214.947127445
Reqrow110 row110 0 313.731087843
Reqrow111 row111 0 181.290072423
Reqrow112 row112 0 222.809962211
Reqrow113 row113 0 57.7994343664
Reqrow114 row114 0 341.048066628
Reqrow115 row115 0 392.857243065
Reqrow116 row116 0 191.309465184
Reqrow117 row117 0 345.442017489
Reqrow118 row118 0 90.0945330937
Reqrow119 row119 0 219.385837733
Reqrow120 row120 0 276.596687245
Reqrow121 row121 0 61.1923289688
Reqrow122 row122 0 77.2496453686
Reqrow123 row123 0 182.861254311
Reqrow124 row124 0 302.813282032
Reqrow125 row125 0 85.6840557122
Reqrow126 row126 0 119.366630286
Reqrow127 row127 0 106.41023963
Bpwr pwr 0 v = (v(row0)*v(row0)/171.861320016) + (v(row1)*v(row1)/377.684090311) + (v(row2)*v(row2)/160.482576229) + (v(row3)*v(row3)/48.8115620736) + (v(row4)*v(row4)/381.555825485) + (v(row5)*v(row5)/222.8161408) + (v(row6)*v(row6)/356.416090901) + (v(row7)*v(row7)/222.881825637) + (v(row8)*v(row8)/151.15448707) + (v(row9)*v(row9)/57.029089257) + (v(row10)*v(row10)/77.7143923712) + (v(row11)*v(row11)/94.8379757972) + (v(row12)*v(row12)/325.885324942) + (v(row13)*v(row13)/42.5549497657) + (v(row14)*v(row14)/201.118496586) + (v(row15)*v(row15)/325.149425823) + (v(row16)*v(row16)/52.9149966244) + (v(row17)*v(row17)/41.8440430163) + (v(row18)*v(row18)/235.248581402) + (v(row19)*v(row19)/372.49164673) + (v(row20)*v(row20)/253.362734768) + (v(row21)*v(row21)/382.713173629) + (v(row22)*v(row22)/46.6690143528) + (v(row23)*v(row23)/59.0401824215) + (v(row24)*v(row24)/168.035423423) + (v(row25)*v(row25)/382.727404395) + (v(row26)*v(row26)/252.62105687) + (v(row27)*v(row27)/59.1216634695) + (v(row28)*v(row28)/362.04257253) + (v(row29)*v(row29)/284.056617028) + (v(row30)*v(row30)/170.55136133) + (v(row31)*v(row31)/355.196328376) + (v(row32)*v(row32)/231.715880802) + (v(row33)*v(row33)/116.516761656) + (v(row34)*v(row34)/39.1596759054) + (v(row35)*v(row35)/121.013173056) + (v(row36)*v(row36)/50.4077859423) + (v(row37)*v(row37)/32.744268908) + (v(row38)*v(row38)/182.225024231) + (v(row39)*v(row39)/30.7834493964) + (v(row40)*v(row40)/54.4496867197) + (v(row41)*v(row41)/225.767034862) + (v(row42)*v(row42)/39.9715581377) + (v(row43)*v(row43)/338.830638099) + (v(row44)*v(row44)/151.586723826) + (v(row45)*v(row45)/113.712584949) + (v(row46)*v(row46)/240.137700262) + (v(row47)*v(row47)/286.433150205) + (v(row48)*v(row48)/366.826654725) + (v(row49)*v(row49)/94.5652964665) + (v(row50)*v(row50)/313.325068318) + (v(row51)*v(row51)/359.056928289) + (v(row52)*v(row52)/219.119117844) + (v(row53)*v(row53)/274.03907768) + (v(row54)*v(row54)/45.7755610977) + (v(row55)*v(row55)/250.793938213) + (v(row56)*v(row56)/53.8426052593) + (v(row57)*v(row57)/91.816798021) + (v(row58)*v(row58)/376.967176708) + (v(row59)*v(row59)/53.8743507968) + (v(row60)*v(row60)/191.986089932) + (v(row61)*v(row61)/272.130997284) + (v(row62)*v(row62)/74.4780479858) + (v(row63)*v(row63)/278.541009758) + (v(row64)*v(row64)/256.155315983) + (v(row65)*v(row65)/69.8118230426) + (v(row66)*v(row66)/71.8571627378) + (v(row67)*v(row67)/28.2272825472) + (v(row68)*v(row68)/42.2048639674) + (v(row69)*v(row69)/183.797286969) + (v(row70)*v(row70)/95.6258189048) + (v(row71)*v(row71)/127.257539507) + (v(row72)*v(row72)/286.930709604) + (v(row73)*v(row73)/144.445624164) + (v(row74)*v(row74)/66.4821288855) + (v(row75)*v(row75)/75.7528438665) + (v(row76)*v(row76)/54.5046630887) + (v(row77)*v(row77)/40.7379469994) + (v(row78)*v(row78)/132.512865539) + (v(row79)*v(row79)/38.6916058916) + (v(row80)*v(row80)/287.464630554) + (v(row81)*v(row81)/306.428582236) + (v(row82)*v(row82)/104.105848816) + (v(row83)*v(row83)/393.803939457) + (v(row84)*v(row84)/67.1835329498) + (v(row85)*v(row85)/32.5778910289) + (v(row86)*v(row86)/385.486050587) + (v(row87)*v(row87)/113.745072287) + (v(row88)*v(row88)/345.062517399) + (v(row89)*v(row89)/171.44457061) + (v(row90)*v(row90)/130.093194575) + (v(row91)*v(row91)/74.5639249554) + (v(row92)*v(row92)/293.964867017) + (v(row93)*v(row93)/96.2396247145) + (v(row94)*v(row94)/196.139455269) + (v(row95)*v(row95)/330.744894584) + (v(row96)*v(row96)/373.533613541) + (v(row97)*v(row97)/53.2394686192) + (v(row98)*v(row98)/361.972651271) + (v(row99)*v(row99)/276.339298271) + (v(row100)*v(row100)/53.876220099) + (v(row101)*v(row101)/294.809864692) + (v(row102)*v(row102)/92.618554274) + (v(row103)*v(row103)/130.441368099) + (v(row104)*v(row104)/238.896038461) + (v(row105)*v(row105)/371.388848858) + (v(row106)*v(row106)/98.7474721684) + (v(row107)*v(row107)/117.556359615) + (v(row108)*v(row108)/188.301077268) + (v(row109)*v(row109)/214.947127445) + (v(row110)*v(row110)/313.731087843) + (v(row111)*v(row111)/181.290072423) + (v(row112)*v(row112)/222.809962211) + (v(row113)*v(row113)/57.7994343664) + (v(row114)*v(row114)/341.048066628) + (v(row115)*v(row115)/392.857243065) + (v(row116)*v(row116)/191.309465184) + (v(row117)*v(row117)/345.442017489) + (v(row118)*v(row118)/90.0945330937) + (v(row119)*v(row119)/219.385837733) + (v(row120)*v(row120)/276.596687245) + (v(row121)*v(row121)/61.1923289688) + (v(row122)*v(row122)/77.2496453686) + (v(row123)*v(row123)/182.861254311) + (v(row124)*v(row124)/302.813282032) + (v(row125)*v(row125)/85.6840557122) + (v(row126)*v(row126)/119.366630286) + (v(row127)*v(row127)/106.41023963)
.control
set filetype=ascii
tran 0.05n 10.002n
meas tran energy INTEG v(pwr) FROM=0n TO=10.002n
wrdata experiments/spice/results/cmm_crosssim_read_energy/spice_validation/median_output_proj_r30c0.dat v(pwr)
quit
.endc
.end
